US05866562
2.26 g (7.3 mmol) of (1,4-dibenzyl-[1,4]-diazepan-6-yl)-methanol are dissolved in 150 ml of methanol and hydrogenated at room temperature and normal pressure in the presence of 0.5 g of 10% palladium on activated charcoal. [1,4]-Diazepan-6-yl-methanol is obtained in the form of a light yellow oil by filtration and concentration of the filtrate.

reactant | (1,4-dibenzyl-[1,4]-diazepan-6-yl)-methanol | 7.3 mmol, 2.26 g | C(C1=CC=CC=C1)N1CCN(CC(C1)CO)CC1=CC=CC=C1 | C20H26N2O
solvent | methanol | 150 ml | CO | CH4O
catalyst | palladium on activated charcoal | 0.5 g | [Pd] | Pd
product | [1,4]-Diazepan-6-yl-methanol | N1CCNCC(C1)CO | C6H14N2O
